US04806538
To a mixture of 1-methylindole (4.26 g) and methyl (2R,3R)-N-benzyloxycarbonyl-3-methyl-2-aziridinecarboxylate (2.70 g) in dry methylene chloride (50 ml) was added boron trifluoride etherate (1.33 ml) under ice-bath cooling. The mixture was stirred for five minutes at ambient temperature and the solvent was evaporated off. The residue was chromatographed on silica gel (chloroform and a 1:1 mixture of hexane and ether as eluent) to give (αR,βR)-N-benzyloxycarbonyl-1,β-dimethyltryptophane methyl ester (1.62 g) as an oil.

reactant | 1-methylindole | 4.26 g | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | methyl (2R,3R)-N-benzyloxycarbonyl-3-methyl-2-aziridinecarboxylate | 2.70 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H]1C)C(=O)OC | C13H15NO4
reactant | boron trifluoride etherate | 1.33 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (αR,βR)-N-benzyloxycarbonyl-1,β-dimethyltryptophane methyl ester | 1.62 g | COC([C@H](NC(=O)OCC1=CC=CC=C1)[C@@H](C1=CN(C2=CC=CC=C12)C)C)=O | C22H24N2O4
